US06420410B1
(B.) (2-Amino-4-methoxyphenyl)-3,4,5-trimethoxy-benzylamine
[N-(4-methoxy-2-nitrophenyl)]3,4,5-trimethoxybenzylamide (17.1 mmol, 6.0 g) in absolute ether (100 ml) is added to LiAlH4 (63.4 mmol, 2.4 g) in absolute ether (40 ml), and the mixture is stirred at room temperature for 8-9 hours. While cooling with an ice bath, the suspension is quenched with water (40 ml) and is extracted with ether (3×100 ml). The combined organic layers are dried with MgSO4, filtered and evaporated. Recrystallisation from ethanol yields the title product as a red solid (23%).

reactant | [N-(4-methoxy-2-nitrophenyl)]3,4,5-trimethoxybenzylamide | 17.1 mmol, 6.0 g | COC1=CC(=C(C=C1)[N-]CC1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-]
reactant | LiAlH4 | 63.4 mmol, 2.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | (2-Amino-4-methoxyphenyl)-3,4,5-trimethoxy-benzylamine | 23% | NC1=C(C=CC(=C1)OC)NCC1=CC(=C(C(=C1)OC)OC)OC | C17H22N2O4
